US04010179
Preparation of 1-[p-(difluoromethylsulfinyl)phenyl]-1H-tetrazole
1-[p-(Difluoromethylthio)phenyl]-1H-tetrazole (1.0 gram) was added to a cold mixture of 5 ml. of concentrated sulfuric acid and 5 ml. of concentrated nitric acid and stirred for 40 minutes in the cold, then for 40 minutes at room temperature. The reaction mixture was poured onto ice and extracted with ethyl acetate. The ethyl acetate solution was extracted with water, dried over magnesium sulfate, and evaporated to afford an oil which was crystallized from ethyl acetate-hexane. Two recrystallizations from the same solvents gave 143 mg. of product, m.p. 109°-112° C.

reactant | 1-[p-(Difluoromethylthio)phenyl]-1H-tetrazole | 1.0 gram | FC(SC1=CC=C(C=C1)N1N=NN=C1)F | C8H6F2N4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1-[p-(difluoromethylsulfinyl)phenyl]-1H-tetrazole | FC(S(=O)C1=CC=C(C=C1)N1N=NN=C1)F | C8H6F2N4OS
